US07368578B2
To a solution of methyl 5-formyl-2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzoate (8.18 g) in tetrahydrofuran (50 mL)-ethanol (50 mL) was gradually added sodium borohydride (0.91 g) at room temperature. After stirring for 2 hrs, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give methyl 2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-5-hydroxymethylbenzoate as pale-yellow crystals (6.53 g, yield 79%) from a fraction eluted with ethyl acetate-hexane (2:1, v/v). Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 131-132° C.

reactant | methyl 5-formyl-2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzoate | 8.18 g | C(=O)C=1C=CC(=C(C(=O)OC)C1)OCC=1N=C(OC1C)C=1OC=CC1 | C18H15NO6
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.91 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | methyl 2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-5-hydroxymethylbenzoate | 6.53 g, yield 79% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C(=O)OC)C=C(C=C1)CO)C | C18H17NO6
